US05175166
2-Amino-3,4,5,6-Tetrahydropyridine-3-carboxylic acid HCl
2-Aminonicotinic acid (0.912 g, 6.6 mmol) was dissolved in 90% methanol (137 ml) and conc. HCl (3.5 ml, 40 mmol) was added. The solution was hydrogenated over PtO2 (200 mg) in a Parr shaker apparatus at room temperature and 29 psig for 2 hours. Filtration and evaporation gave 1.22 g (100%) oily product identified by ir 3300-2500, 1724 cm-1.

reactant | 2-Aminonicotinic acid | 6.6 mmol, 0.912 g | NC1=C(C(=O)O)C=CC=N1 | C6H6N2O2
reactant | HCl | 40 mmol, 3.5 ml | Cl | ClH
solvent | methanol | 137 ml | CO | CH4O
catalyst | PtO2 | 200 mg | O=[Pt]=O
product | 2-Amino-3,4,5,6-Tetrahydropyridine-3-carboxylic acid HCl | 1.22 g, 100% | Cl.NC1=NCCCC1C(=O)O | InChI=1S/C6H10N2O2.ClH/c7-5-4(6(9)10)2-1-3-8-5;/h4H,1-3H2,(H2,7,8)(H,9,10);1H
